US08309586B2
Synthesis of 2-[(4-fluoro-2-nitro-phenyl)-hydrazono]-propionic acid ethyl ester
4-Fluoro-2-nitroaniline (10 g, 64 mmol) was dissolved in 6N hydrochloric acid (64 ml, 0.27 mol), sodium nitrate (4.4 g, 64 mmol) dissolved in water (50 ml) was slowly added in drops thereto at 0° C., and the mixture was stirred for 30 min at 0° C.˜room temperature. Simultaneously, ethyl 2-methylacetoacetate (9.2 ml, 64 mmol) and sodium hydroxide (19 g, 0.34 mol) were dissolved in 80% aqueous ethanol solution (95 ml), and stirred for 10 min at 0° C. The two solutions thus prepared were mixed, and stirred for 8 h at 0° C.˜room temperature. Water was added to the reaction solution, and the insoluble solid was collected. The solid was washed with water, and dried to give the title compound (7.9 g, Yield 46%).

reactant | 4-Fluoro-2-nitroaniline | 64 mmol, 10 g | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | hydrochloric acid | 0.27 mol, 6N, 64 ml | Cl | ClH
reactant | sodium nitrate | 64 mmol, 4.4 g | [N+](=O)([O-])[O-].[Na+]
reactant | ethyl 2-methylacetoacetate | 64 mmol, 9.2 ml | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | sodium hydroxide | 0.34 mol, 19 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | 95 ml | C(C)O | C2H6O
product | 2-[(4-fluoro-2-nitro-phenyl)-hydrazono]-propionic acid ethyl ester | 7.9 g, Yield 46% | C(C)OC(C(C)=NNC1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C11H12FN3O4
